US07560558B2
4-n-Propylphenol (1.00 g) was dissolved in dichloromethane (10 ml) to prepare a solution. Pyridine (862 mg) and acetyl chloride (692 mg) were added to the solution, and the mixture was stirred at room temperature overnight. The solvent was removed therefrom by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was dried over anhydrous magnesium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography using chloroform to give 4-n-propylphenyl acetate (1.09 g, yield 100%).

reactant | 4-n-Propylphenol | 1.00 g | C(CC)C1=CC=C(C=C1)O | C9H12O
reactant | Pyridine | 862 mg | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 692 mg | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-n-propylphenyl acetate | 1.09 g, yield 100% | CCCC=1C=CC(=CC1)OC(=O)C | C11H14O2
